US05331006
3-Dimethylaminomethyl-imidazo[1,5-a]pyridine
A mixture of 40% aqueous dimethylamine (10.2 g), formalin (7.4 g), and glacial acetic acid, cooled to 0° to 5° C., was given to imidazo[1,5-a]pyridine [J. Chem. Soc., 1955, 2834](10.0 g, 84 mmol). The resulting dark mixture was left stirring for 48 hours at room temperature,then was made basic with 2N NaOH and extracted with CH2Cl2. The combined extracts (2×100 mL) were dried (Na2SO4) and evaporated. The residue was purified by chromatography over silica gel using MeOH/CH2Cl2 2:98 as eluant to give the title compound (3.0 g, 20%) as an oil; MS (70 eV): m/z 175 (M+).

reactant | dimethylamine | 10.2 g | CNC | C2H7N
reactant | formalin | 7.4 g | C=O | CH2O
reactant | imidazo[1,5-a]pyridine | 84 mmol, 10.0 g | C=1N=CN2C1C=CC=C2 | C7H6N2
reactant | NaOH | 2N | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Dimethylaminomethyl-imidazo[1,5-a]pyridine | 3.0 g, 20% | CN(C)CC1=NC=C2N1C=CC=C2 | C10H13N3
